US04128655
1,2-Diaminopropane 61.5 g (0.7 mole) was delivered to a reaction vessel and pelargonic acid 112 g (0.7 mole) was added slowly. The mixture was slowly heated to 170° C. while removing water of reaction. There was obtained 4-methyl-2-octyl-2-imidazoline. To it was added 42 g of paraformaldehyde with stirring. The mixture was heated to about 100° C. for 3 hours to produce N1 -hydroxymethyl-4-methyl-2-octyl-2-imidazoline.

reactant | 1,2-Diaminopropane | 0.7 mole, 61.5 g | NCC(C)N | C3H10N2
reactant | pelargonic acid | 0.7 mole, 112 g | C(CCCCCCCC)(=O)O | C9H18O2
product | 4-methyl-2-octyl-2-imidazoline | CC1N=C(NC1)CCCCCCCC | C12H24N2
